US04308378
Step C. Preparation of 2-(2,4-Dichloro-6-methoxyphenyl)-4,4-dimethyl-2-oxazoline
N-(2-Hydroxy-1,1-dimethylethyl)-2,4-dichloro-6-methoxybenzamide (5.5 g, 18.8 mmol) was treated dropwise with thionyl chloride (5.5 ml) and stirred magnetically at 20° C. for 30 min. Dry ether (100 ml) was added, the mixture was stirred for an additional one hour and the oxazoline hydrochloride precipitate was collected by filtration. The salt was neutralized with 20% sodium hydroxide to afford an alkaline mixture which was extracted with ether. The ethereal extract was dried (MgSO4) and concentrated to give an oil (3.6 g, 70%), which crystallized on standing, mp 47°-50° C.

reactant | N-(2-Hydroxy-1,1-dimethylethyl)-2,4-dichloro-6-methoxybenzamide | 18.8 mmol, 5.5 g | OCC(C)(C)NC(C1=C(C=C(C=C1OC)Cl)Cl)=O | C12H15Cl2NO3
reactant | thionyl chloride | 5.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-(2,4-Dichloro-6-methoxyphenyl)-4,4-dimethyl-2-oxazoline | 3.6 g, 70% | ClC1=C(C(=CC(=C1)Cl)OC)C=1OCC(N1)(C)C | C12H13Cl2NO2
